US09226922B2
In a manner simnilar to that described for Intermediate 16B, 2,2-dimethyl-1-phenylpropan-1-amine was reacted with HCl and potassium cyanate to provide 1-(2,2-dimethyl-1-phenylpropyl)urea. MS: [M+H]+ m/z 207.

reactant | 2,2-dimethyl-1-phenylpropan-1-amine | CC(C(N)C1=CC=CC=C1)(C)C | C11H17N
reactant | HCl | Cl | ClH
reactant | potassium cyanate | [O-]C#N.[K+]
product | 1-(2,2-dimethyl-1-phenylpropyl)urea | CC(C(C1=CC=CC=C1)NC(=O)N)(C)C | C12H18N2O
